US09357776B2
In 30 ml of carbon tetrachloride, 1.04 g (8.13 mmol) of 2-chloro-5-methylpyrimidine was dissolved. To this solution, 1.73 g (9.75 mmol) of N-bromosuccinimide and 20 mg of benzoyl peroxide were added, followed by heating under reflux for 6 hours. After completion of the reaction, the reaction liquid was returned to room temperature, and concentrated under reduced pressure. Then, the residue was purified by silica gel column chromatography (hexane:ethyl acetate=3:1). Thus, 641 mg of 5-bromomethyl-2-chloropyrimidine was obtained (Percentage Yield: 380).

reactant | 2-chloro-5-methylpyrimidine | 8.13 mmol, 1.04 g | ClC1=NC=C(C=N1)C | C5H5ClN2
reactant | N-bromosuccinimide | 9.75 mmol, 1.73 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | benzoyl peroxide | 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 5-bromomethyl-2-chloropyrimidine | 641 mg | BrCC=1C=NC(=NC1)Cl | C5H4BrClN2
